US04824834
8-(4-Benzoylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine
A mixture of 8-(4-α,α-ethylenedioxybenzylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine (0.20 g), conc. hydrochloric acid (0.5 ml), water (1 ml), methanol (4 ml) and acetone (1 ml) is stirred at 45°-60° C. for 2 hours. After cooling, the resulting precipitate is separated by filtration, washed with water and dried to give the title compound (0.15 g).

reactant | 8-(4-α,α-ethylenedioxybenzylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine | 0.20 g | C1OC(C2=CC=CC=C2)(OC1)C1=C(C=CC=C1)C=1C=NN2C1N=CN=C2O | C20H16N4O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | water | 1 ml | O | H2O
reactant | methanol | 4 ml | CO | CH4O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 8-(4-Benzoylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine | 0.15 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C=1C=NN2C1N=CN=C2O | C18H12N4O2
